US05654307
Reaction of 6-fluoro-3H-pyrido[3,4-d]pyrimidin-4-one (0.60 g, 3.6 mmol) with POCl3, followed by reaction of the crude 4,6-dihalo compound with 3-bromoaniline gives 4-(3-bromoanilino)-6-fluoropyrido[3,4-d]pyrimidine (0.73 g, 63%). 1H NMR (DMSO) δ 10.09 (1H, brs), 8.96 (1H, s), 8.75 (1H, s), 8.25 (2H, m), 7.90 (1H, brd, J=6.5 Hz), 7.44 -7.34 (2H, m).

reactant | 6-fluoro-3H-pyrido[3,4-d]pyrimidin-4-one | 3.6 mmol, 0.60 g | FC1=CC2=C(N=CNC2=O)C=N1 | C7H4FN3O
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 3-bromoaniline | BrC=1C=C(N)C=CC1 | C6H6BrN
product | 4-(3-bromoanilino)-6-fluoropyrido[3,4-d]pyrimidine | 0.73 g, 63% | BrC=1C=C(NC=2C3=C(N=CN2)C=NC(=C3)F)C=CC1 | C13H8BrFN4
